US09062015B2
FS906: 7-{6-[4-(5-Hydroxypentyl)piperazin-1-yl]pyridin-2-yl}-1,4,4-trimethyl-1,2,3,4-tetrahydronaphthalen-1-ol
50 mg (0.12 mmol) of 7-{6-[4-(5-hydroxypentyl)piperazin-1-yl]pyridin-2-yl}-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one are dissolved in 5 ml of THF, cooled to 0° C., and 224 μl (0.36 mmol) of methyllithium in diethyl ether (5%) are added. The reaction mixture is stirred at 0° C. for 30 min and warmed to room temperature. Water added to the reaction mixture, sodium hydrogencarbonate solution added, and the mixture extracted with ethyl acetate, dried and evaporated. The crude product is purified by means of column chromatography on silica gel.

reactant | 7-{6-[4-(5-hydroxypentyl)piperazin-1-yl]pyridin-2-yl}-4,4-dimethyl-3,4-dihydro-2H-naphthalen-1-one | 0.12 mmol, 50 mg | OCCCCCN1CCN(CC1)C1=CC=CC(=N1)C1=CC=C2C(CCC(C2=C1)=O)(C)C | C26H35N3O2
reactant | methyllithium | 0.36 mmol, 224 μl | C[Li]
reactant | Water | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 7-{6-[4-(5-Hydroxypentyl)piperazin-1-yl]pyridin-2-yl}-1,4,4-trimethyl-1,2,3,4-tetrahydronaphthalen-1-ol | OCCCCCN1CCN(CC1)C1=CC=CC(=N1)C1=CC=C2C(CCC(C2=C1)(O)C)(C)C | C27H39N3O2
